US20010053851A1
A solution of diisopropylamine (11.2 mL, 80.13 mmol) in tetrahydrofiran (120 mL) cooled to −78° C. was treated with a 2.5M solution of n-butyllithium in hexanes (32 mL, 80.13 mmol). This solution was stirred at −78° C. for 30 min and then treated with a solution of (4-iodo-phenyl)-acetic acid (9.67 g, 36.9 mmol) in tetrahydrofuran (88 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (29 mL). The reaction mixture was allowed to stir at −78° C. for 1 h. At this time, the reaction was treated with iodomethylcyclopentane (8.53 g, 40.6 mmol). The reaction mixture was allowed to slowly warm to 25° C. where it was stirred at 25° C. for 18 h. At this time, the reaction mixture was quenched with water (5 mL) and then concentrated in vacuo. The residue was diluted with water (800 mL) and then acidified to pH=2 with concentrated hydrochloric acid. This solution was extracted with ethyl acetate (2×800 mL). The combined organic extracts were washed with water (1×600 mL) and a saturated aqueous sodium chloride solution (1×600 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid (7.34 g, 57.8%) as a white solid: mp 105-107° C.; EI-HRMS m/e calcd for C14H17IO2 (M+) 344.0273, found 344.0275.

reactant | diisopropylamine | 80.13 mmol, 11.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (4-iodo-phenyl)-acetic acid | 36.9 mmol, 9.67 g | IC1=CC=C(C=C1)CC(=O)O | C8H7IO2
reactant | iodomethylcyclopentane | 40.6 mmol, 8.53 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 88 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 29 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid | 7.34 g, 57.8% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)I | C14H17IO2
